US05559230
6-Fluoro-1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline (0.15 g) is dissolved in dichloromethane (10 ml) and thereto is added triethylamine (0.31 ml). To the mixture is added dropwise a solution of 3,5-dichlorobenzoyl chloride (0.14 g) in dichloromethane (2.0 ml) under ice-cooling, and the mixture is stirred for 30 minutes under ice-cooling, and further, at room temperature for 1 hour. To the mixture are added triethylamine (0.31 ml) and 3,5-dichlorobenzoyl chloride (0.14 ml). The mixture is stirred at room temperature for 4 hours. The reaction mixture is washed with water, and dried over magnesium sulfate. The solvent is distilled off and the resulting residue is purified by silica gel column chromatography (eluent; ethyl acetate:n-hexane=1:5→1:4), and recrystallized from ethyl acetate/n-hexane to give 6-fluoro-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline (0.12 g) and 6-fluoro-1-(4-[bis-(3,5-dichlorobenzoyl)amino]-benzoyl}-1,2,3,4-tetrahydroquinoline.

reactant | 6-Fluoro-1-(4-aminobenzoyl)-1,2,3,4-tetrahydroquinoline | 0.15 g | FC=1C=C2CCCN(C2=CC1)C(C1=CC=C(C=C1)N)=O | C16H15FN2O
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzoyl chloride | 0.14 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
reactant | triethylamine | 0.31 ml | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzoyl chloride | 0.14 ml | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 6-fluoro-1-[4-(3,5-dichlorobenzoylamino)benzoyl]-1,2,3,4-tetrahydroquinoline | 0.12 g | FC=1C=C2CCCN(C2=CC1)C(C1=CC=C(C=C1)NC(C1=CC(=CC(=C1)Cl)Cl)=O)=O | C23H17Cl2FN2O2
